US06894061B2
4-[(2-Bromo-8-chloro-6-methylphenanthridin-5(6H)-yl)sulfonyl]phenol
The title compound was prepared from 2-bromo-8-chloro-5-[(4-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine (0.6 g, 1.25 mmol), cyclohexene (0.32 mL, 3.13 mmol), and 1.0 M boron tribromide in dichloromethane (7.52 mL, 7.52 mmol) according to the procedure and in the same manner as described in Example 1, step b. The crude product was purified by flash column chromatography on silica gel, eluting with dichloromethane to yield 4-[(2-bromo-8-chloro-6-methylphenanthridin-5(6H)-yl)sulfonyl]phenol (0.33 g, 0.71 mmol, 56%) as a light-yellow solid, m.p. 213-215° C.;

reactant | 2-bromo-8-chloro-5-[(4-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | 1.25 mmol, 0.6 g | BrC1=CC=2C3=CC=C(C=C3C(N(C2C=C1)S(=O)(=O)C1=CC=C(C=C1)OC)C)Cl | C21H17BrClNO3S
reactant | cyclohexene | 3.13 mmol, 0.32 mL | C1=CCCCC1 | C6H10
reactant | boron tribromide | 1.0 M | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 7.52 mmol, 7.52 mL | ClCCl | CH2Cl2
product | 4-[(2-bromo-8-chloro-6-methylphenanthridin-5(6H)-yl)sulfonyl]phenol | 0.71 mmol, 0.33 g, 56% | BrC1=CC=2C3=CC=C(C=C3C(N(C2C=C1)S(=O)(=O)C1=CC=C(C=C1)O)C)Cl | C20H15BrClNO3S
